US06632824B2
6-Methoxy-quinolin-8-ylamine
A mixture of 9.20 g (45.1 mmol) 6-methoxy-8-nitroquinoline, 1.8 g of 10% Pd/C and 150 mL THF is placed under 40 psi of H2 and shaken in a Parr reactor at 23° C. for 4 h. The Pd/C is removed via filtration through celite, and the solvent evaporated. Flash chromatography on SiO2 gel, eluting with hexanes/EtOAc (1/1 to 1/3), gives 7.40 g (42.5 mmol, a 95% yield) of the title compound as an off-white solid. MS (ES) m/z 175 (MH)+.

reactant | 6-methoxy-8-nitroquinoline | 45.1 mmol, 9.20 g | COC=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C10H8N2O3
catalyst | Pd/C | 1.8 g | [Pd] | Pd
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-quinolin-8-ylamine | 95% yield | COC=1C=C2C=CC=NC2=C(C1)N | C10H10N2O
